US06858651B2
In analogy to example 11.11, trans-N-(4-Hydroxy-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide and 1,4-Dibrombutane were converted to yield trans-N-[4-(4-Bromo-butoxy)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide as light yellow semisolid, MS: 320 [M−C4H8BrO].

reactant | trans-N-(4-Hydroxy-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide | O[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C14H18F3NO3S
reactant | 1,4-Dibrombutane | BrCCCCBr | C4H8Br2
product | trans-N-[4-(4-Bromo-butoxy)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | BrCCCCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C18H25BrF3NO3S
